US08207177B2
Step b: 7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine
To a suspension of 5-iodo-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-7H-pyrrolo[2,3-d]pyrimidine (337 mg, 0.685 mmol), copper(I) iodide (26.0 mg, 0.137 mmol), dichlorobis(triphenylphosphine)-palladium(II) (48.0 mg, 0.0684 mmol) and DIPEA (0.240 mL, 1.38 mmol) in DMF (20.0 mL) was added ethynyltrimethylsilane (188 mg, 1.91 mmol) and the mixture was stirred at rt overnight. The reaction mixture was quenched via addition of saturated aqueous sodium bicarbonate solution and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. Silica gel chromatography eluting with a gradient of 0 to 75% EtOAc in hexanes afforded the title compound (314 mg, 99%). LC/MS: Rt=2.38 min, ES+ 462 (AA standard).

reactant | 5-iodo-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.685 mmol, 337 mg | IC1=CN(C=2N=CN=C(C21)C)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)C2 | C21H22IN3O3
reactant | DIPEA | 1.38 mmol, 0.240 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethynyltrimethylsilane | 1.91 mmol, 188 mg | C(#C)[Si](C)(C)C | C5H10Si
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.137 mmol, 26.0 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.0684 mmol, 48.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-4-methyl-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine | 314 mg, 99% | COC1=CC=C(C=C1)C1OC[C@H]2[C@@H](O1)C[C@@H](C2)N2C=C(C1=C2N=CN=C1C)C#C[Si](C)(C)C | C26H31N3O3Si
